US07087626B2
1-(4-Methyl-piperazin-1-yl)-2-[4-(2-pyridin-2-yl-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl)-quinolin-7-yloxy]-ethanone
To a solution of [4-(2-pyridin-2-yl-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl)-quinolin-7-yloxy]-acetic acid (150 mg, 0.39 mmol) in dichloromethane (3 mL) is added oxalyl chloride (490 mg, 3.9 mmol) and 1 drop of N,N-dimethylformamide. The mixture is stirred at room temperature for 5 h, concentrated in vacuo, and residual solvents removed by co-evaporation three times with chloroform to yield [4-(2-pyridin-2-yl-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl)-quinolin-7-yloxy]-acetyl chloride as a yellow solid. To a solution of [4-(2-pyridin-2-yl-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl)-quinolin-7-yloxy]-acetyl chloride (50 mg, 0.12 mmol) in dichloromethane at room temperature is added 1-methyl-piperazine (62 mg, 62 mmol) and the mixture stirred for 2.5 h. The mixture is partitioned between dichloromethane and water, the organic portion dried (sodium sulfate), filtered, and concentrated in vacuo. The crude residue is chromatographed on SiO2 (89% dichloromethane 10% methanol 1% concentrated ammonium hydroxide) to yield the title compound, 28 mg (48%), as a light brown solid.

reactant | [4-(2-pyridin-2-yl-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl)-quinolin-7-yloxy]-acetyl chloride | 0.12 mmol, 50 mg | N1=C(C=CC=C1)C=1C(=C2N(N1)CCC2)C2=CC=NC1=CC(=CC=C21)OCC(=O)Cl | C22H17ClN4O2
reactant | 1-methyl-piperazine | 62 mmol, 62 mg | CN1CCNCC1 | C5H12N2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-(4-Methyl-piperazin-1-yl)-2-[4-(2-pyridin-2-yl-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl)-quinolin-7-yloxy]-ethanone | CN1CCN(CC1)C(COC1=CC=C2C(=CC=NC2=C1)C1=C2N(N=C1C1=NC=CC=C1)CCC2)=O | C27H28N6O2
